US04327093
A mixture of 7-[2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.trifluoroacetate (1.25 g) and conc.hydrochloric acid (0.6 ml) in methanol (12 ml) and tetrahydrofuran (12 ml) was stirred for 1 hour and 15 minutes at ambient temperature. The reaction mixture was treated with activated charcoal and filtered. The filtrate was evaporated and to the residue was added isopropyl alcohol followed by evaporation. The residue was pulverized in diethyl ether, collected by filtration, washed with ethyl acetate and then dried under reduced pressure to give 7-[2-(2-aminothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.dihydrochloride (0.65 g).

reactant | 7-[2-(2-formamidothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid | C(=O)NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2CCN(CC2)C)C(=O)O)C1=O | C20H24N6O7S2
reactant | trifluoroacetate | 1.25 g | FC(C(=O)[O-])(F)F
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | methanol | 12 ml | CO | CH4O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylic acid.dihydrochloride | 0.65 g | Cl.Cl.NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(=O)N2CCN(CC2)C)C(=O)O)C1=O | InChI=1S/C19H24N6O6S2.2ClH/c1-23-2-4-24(5-3-23)19(30)31-7-10-8-32-16-13(15(27)25(16)14(10)17(28)29)22-12(26)6-11-9-33-18(20)21-11;;/h9,13,16H,2-8H2,1H3,(H2,20,21)(H,22,26)(H,28,29);2*1H/t13?,16-;;/m1../s1
